US04326069
N-(3'-Piperidylpropyl)-aspartic acid-4-methyl ester
In a manner analogous to that described in Example 1, 28.6 g (0.2 mol+10% excess) of maleic acid-monomethyl ester, 40 ml of triethylamine and 88.4 g (0.2 mol) of N-(3'-aminopropyl)-piperidine are reacted and the reaction product is purified. The yield is 36.7 g (67.4% of theory) and the melting point of the product obtained is 172°-173° C.

reactant | maleic acid-monomethyl ester | 0.2 mol, 28.6 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | N-(3'-aminopropyl)-piperidine | 0.2 mol, 88.4 g | NCCCN1CCCCC1 | C8H18N2
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Piperidylpropyl)-aspartic acid-4-methyl ester | COC(C[C@H](NCCCN1CCCCC1)C(=O)O)=O | C13H24N2O4
